US06890885B2
(5-Cyclopropyl-3-methylsulfinyl-isoxazol-4-yl)-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-methanone
1.50 g (0.0043 mol) of (5-cyclopropyl-3-methylsulfanyi-isoxazol-4-yl)-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-methanone are dissolved in 30 ml of acetone/water (2:1 mixture) and 1.02 g (0.0048 mol) of sodium metaperiodate are added in portions at 22° C. After 5 hours, the reaction mixture is concentrated by evaporation using a rotary evaporator. The residue is taken up in water and ethyl acetate. The ethyl acetate phase is dried over sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel (eluant: ethyl acetate/hexane 3/1). 0.8 g (51%) of the desired product is obtained in the form of white crystals (m.p. 96-97° C.).

reactant | (5-cyclopropyl-3-methylsulfanyi-isoxazol-4-yl)-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-methanone | 0.0043 mol, 1.50 g | C1(CC1)C1=C(C(=NO1)SC)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C15H13F3N2O2S
reactant | sodium metaperiodate | 0.0048 mol, 1.02 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone water | 30 ml | CC(=O)C.O
product | (5-Cyclopropyl-3-methylsulfinyl-isoxazol-4-yl)-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-methanone | 0.8 g, 51% | C1(CC1)C1=C(C(=NO1)S(=O)C)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C15H13F3N2O3S
